Current-mirror op-amp private fixture
.include p18_cmos_models_ff.inc
* Current-mirror op-amp (symmetrical OTA), K=2
* 1.8 V, L=0.4 um, Iss=155 uA, designed for 2.5 pF load
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Bias: IBIAS is the differential-pair tail current
IBIAS ntail vss 155u
* NMOS input pair
M1 d1 vinp ntail vss nmos w=100u l=0.4u
M2 d2 vinn ntail vss nmos w=100u l=0.4u
* PMOS diode loads
M3 d1 d1 vdd vdd pmos w=6.5u l=0.4u
M4 d2 d2 vdd vdd pmos w=6.5u l=0.4u
* PMOS mirror to output (K=2)
M5 vout d1 vdd vdd pmos w=13u l=0.4u
* PMOS 1:1 into NMOS diode branch
M6 d3 d2 vdd vdd pmos w=6.5u l=0.4u
* NMOS mirror to output (K=2)
M7 d3 d3 vss vss nmos w=3.2u l=0.4u
M8 vout d3 vss vss nmos w=6.4u l=0.4u
.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 0.75
RFB vout vinn 1m
.control
op
print v(vout) i(VDD) @m.xdut.m1[vds] @m.xdut.m1[vdsat] @m.xdut.m2[vds] @m.xdut.m2[vdsat] @m.xdut.m3[vds] @m.xdut.m3[vdsat] @m.xdut.m4[vds] @m.xdut.m4[vdsat] @m.xdut.m5[vds] @m.xdut.m5[vdsat] @m.xdut.m6[vds] @m.xdut.m6[vdsat] @m.xdut.m7[vds] @m.xdut.m7[vdsat] @m.xdut.m8[vds] @m.xdut.m8[vdsat]
quit
.endc
.end
