Current-mirror op-amp private fixture
.include p18_cmos_models_ff.inc
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Current-mirror OTA (K=2), L=0.4um all MOSFETs
* Topology: NMOS diff pair, PMOS diode loads, K=2 PMOS to output,
*           unit intermediate PMOS into NMOS diode, K=2 NMOS to output.
* Source-degeneration resistors on PMOS branches improve mirror matching
* (lower IQ under FF) while preserving slew and unity-gain bandwidth.
*
* Ports: vinp vinn vout vdd vb1 vb2 vss
*   vb1/vb2 unused (may only connect to gates; left open)
*   IBIAS is the differential-pair tail current (neg. terminal = vss)

IBIAS ntail vss 153.4u

* ----- NMOS differential pair -----
M1   d1   vinp  ntail vss nmos w=100u l=0.4u
M2   d2   vinn  ntail vss nmos w=100u l=0.4u

* ----- PMOS source degeneration -----
R3   vdd  s3    130
R4   vdd  s4    130
R5   vdd  s5    65
R6   vdd  s6    130

* ----- PMOS diode-connected loads (unit) -----
M3   d1   d1    s3    vdd pmos w=11u  l=0.4u
M4   d2   d2    s4    vdd pmos w=11u  l=0.4u

* ----- PMOS K=2 to output; unit intermediate branch -----
M5   vout d1    s5    vdd pmos w=22u  l=0.4u
M6   mid  d2    s6    vdd pmos w=11u  l=0.4u

* ----- NMOS mirror K=2 -----
M7   mid  mid   vss   vss nmos w=5.5u l=0.4u
M8   vout mid   vss   vss nmos w=11u  l=0.4u

.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 1
RFB vout vinn 1m
.control
op
print v(vout) i(VDD) @m.xdut.m1[vds] @m.xdut.m1[vdsat] @m.xdut.m2[vds] @m.xdut.m2[vdsat] @m.xdut.m3[vds] @m.xdut.m3[vdsat] @m.xdut.m4[vds] @m.xdut.m4[vdsat] @m.xdut.m5[vds] @m.xdut.m5[vdsat] @m.xdut.m6[vds] @m.xdut.m6[vdsat] @m.xdut.m7[vds] @m.xdut.m7[vdsat] @m.xdut.m8[vds] @m.xdut.m8[vdsat]
quit
.endc
.end
